US06660744B1
1H-pyrazolo[3,4-d]pyrimidin-4-ol (10 g, 73.5 mmol) was suspended in 700 ml of water. Bromine (10 ml, 194 mmol) was added and the resulting reaction mixture was heated to 91° C. overnight. After cooling on ice-water, the solid was collected by filtration to give 1.508 g of 3-bromo-1H-pyrazolo[3,4-d]pyrimidin-4-ol as light yellow solid. 1H NMR (DMSO) 8.06 (s, 1H), 12.25(bs, 1H), 14.06 (bs, 1H).

reactant | 1H-pyrazolo[3,4-d]pyrimidin-4-ol | 73.5 mmol, 10 g | N1N=CC=2C1=NC=NC2O | C5H4N4O
reactant | Bromine | 194 mmol, 10 ml | BrBr | Br2
solvent | water | 700 ml | O | H2O
product | 3-bromo-1H-pyrazolo[3,4-d]pyrimidin-4-ol | 1.508 g | BrC1=NNC2=NC=NC(=C21)O | C5H3BrN4O
